US06329391B1
3-Methoxy-2,4-difluoro-bromobenzene
A quantity of 3.7 g of 3-hydroxy-2,4-difluoro-bromobenzene is dissolved in 25 ml of acetone and 2.5 g of potassium carbonate is added followed by 2.2 ml of methyl iodide. The mixture is stirred at 20° C. for 6 hours and the solvent evaporated. After addition of dichloromethane, the suspension is filtered. Evaporation of the solvent affords the desired product.

reactant | 3-hydroxy-2,4-difluoro-bromobenzene | 3.7 g | OC=1C(=C(C=CC1F)Br)F | C6H3BrF2O
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 2.2 ml | CI | CH3I
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 3-Methoxy-2,4-difluoro-bromobenzene | COC=1C(=C(C=CC1F)Br)F | C7H5BrF2O
